US09233366B2
4-Iodoanisole (58 mg, 0.25 mmol) and n-butylacrylate (54 μL, 0.375 mmol) were coupled using the procedure described above to give 74% conversion to (E)-n-butyl 3-(4-methoxyphenyl)acrylate by GC analysis.

reactant | 4-Iodoanisole | 0.25 mmol, 58 mg | IC1=CC=C(C=C1)OC | C7H7IO
reactant | n-butylacrylate | 0.375 mmol, 54 μL | C(CCC)OC(C=C)=O | C7H12O2
product | (E)-n-butyl 3-(4-methoxyphenyl)acrylate | COC1=CC=C(C=C1)/C=C/C(=O)OCCCC | C14H18O3
